US09163008B2
To a mixture of methyl 2,6-dichloropyrimidine-4-carboxylate (2.074 g, 10.02 mmol) in acetonitrile (50 mL) was added (S)-pyrrolidine-2-carboxamide (1.150 g, 10.07 mmol) and iPr2NEt (1.92 mL, 11.02 mmol). The mixture was heated at 50° C. overnight and then filtered while still warm. The filter cake was washed with acetonitrile (1×10 mL) then dried under vacuum at 40° C. to give a first batch of (S)-methyl 6-(2-carbamoylpyrrolidin-1-yl)-2-chloropyrimidine-4-carboxylate as a tan solid (0.671 g, 2.36 mmol, 24% yield). The filtrate and washes were evaporated in vacuo and triturated with warm acetonitrile (10 mL). The solid was filtered, washed with acetonitrile (2×5 mL), and dried under vacuum at 40° C. to give a second batch of (S)-methyl 6-(2-carbamoylpyrrolidin-1-yl)-2-chloropyrimidine-4-carboxylate as a solid (0.849 g, 2.98 mmol, 30% yield). LC/MS: m/z=285.1 [M+H]+.

reactant | methyl 2,6-dichloropyrimidine-4-carboxylate | 10.02 mmol, 2.074 g | ClC1=NC(=CC(=N1)C(=O)OC)Cl | C6H4Cl2N2O2
reactant | (S)-pyrrolidine-2-carboxamide | 10.07 mmol, 1.150 g | N1[C@@H](CCC1)C(=O)N | C5H10N2O
reactant | iPr2NEt | 11.02 mmol, 1.92 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | (S)-methyl 6-(2-carbamoylpyrrolidin-1-yl)-2-chloropyrimidine-4-carboxylate | 2.36 mmol, 0.671 g, 24% yield | C(N)(=O)[C@H]1N(CCC1)C1=CC(=NC(=N1)Cl)C(=O)OC | C11H13ClN4O3
